US05066695
21.5 g of 2-hydroxypropiophenone and 20.6 g of picolinic acid hydrazide are stirred in 250 ml of ethyl cellosolve for 18 hours at 110° C. and then for 2 hours at room temperature. The light yellow solution is concentrated on a rotary evaporator to approx. 50% of its volume. The yellow crystals which have precipitated are isolated by filtration and washed with isopropanol and then with water. After the crystals have been dried under vacuum at 50° C., 18 g of 2-hydroxypropiophenone picolinoylhydrazone are obtained which gives the following microanalysis:

reactant | 2-hydroxypropiophenone | 21.5 g | OC(C(=O)C1=CC=CC=C1)C | C9H10O2
reactant | picolinic acid hydrazide | 20.6 g | N1=C(C=CC=C1)C(=O)NN | C6H7N3O
solvent | ethyl cellosolve | 250 ml | CCOCCO | C4H10O2
product | 2-hydroxypropiophenone picolinoylhydrazone | 18 g | N1=C(C=CC=C1)C(=O)NN=C(C(C)O)C1=CC=CC=C1 | C15H15N3O2
